US04645727
A mixture of 27.7 grams of (0.1 mole) of 1,5-dichloroanthraquinone, 28.5 grams (0.22 mole) of p-hydroxythiophenol, 30 grams (0.22 mole) of potassium carbonate and 200 milliliters of dimethyl formamide was heated with stirring at 145° C. for 4 hours. The mixture was then cooled to room temperature and poured into 1.5 liters of water. Thereafter, the above product was isolated by filtration and washed with 500 milliliters of water and air dried. The product was then recrystallized from acetic acid to yield 30 grams of 1,5-bis(p-hydroxyphenylthio)anthraquinone as a yellow powder, m.p., 298°-300° C.; ms 456 (M+); vis (DMF), λmax 450 nm (ε6300); Anal. Calcd. for C26H16O4S2 : C, 68.4; H, 3.53; O, 14.02; S, 14.05. Found: C, 67.93; H, 3.60; O, 14.05; S, 14.26.

reactant | 1,5-dichloroanthraquinone | 0.1 mole, 27.7 grams | ClC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | p-hydroxythiophenol | 0.22 mole, 28.5 grams | OC1=CC=C(C=C1)S | C6H6OS
reactant | potassium carbonate | 0.22 mole, 30 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl formamide | 200 milliliters | CN(C=O)C | C3H7NO
solvent | water | 1.5 liters | O | H2O
product | 1,5-bis(p-hydroxyphenylthio)anthraquinone | 30 grams | OC1=CC=C(C=C1)SC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)SC1=CC=C(C=C1)O)=O | C26H16O4S2
